US07053060B2
To a solution of 5-benzyloxycarbonylamino-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.35 g) in tetrahydrofuran (4 mL) was added 10% palladium-carbon powder (0.07 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 8 hours. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/3-dichloromethane/ethyl acetate=1/1) to give 5-amino-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.19 g).

reactant | 5-benzyloxycarbonylamino-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.35 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)NC(=O)OCC2=CC=CC=C2)CC2=CC=C(C=C2)CC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C37H41NO12
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.07 g | [C].[Pd]
product | 5-amino-2-(4-ethylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.19 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)N)CC2=CC=C(C=C2)CC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C29H35NO10
